US09428509B2
4-((4-(Cyclopentyloxy)-5-(4-fluoro-2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxy-N-methylbenzamide
A mixture of 6-(2-chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-4-fluoro-2-methylbenzo[d]oxazole (1 equiv), 4-amino-3-methoxy-N-methylbenzamide (1.2 equiv), brettphos (0.15 equiv), cesium carbonate (3 equiv), and dicyclohexyl(2′,6′-diisopropoxy-[1,1′-biphenyl]-2-yl)phosphine (0.15 equiv) in 1,4-dioxane (0.2 M) was purged with nitrogen and sealed. The reaction mixture was heated to 110° C. for 2 h. The reaction was filtered and solvents were removed under reduced pressure. The reaction mixture was purified using silica gel chromatography (0 to 100% ethyl acetate in hexane) to give the title compound (63% yield). MS (ESI) m/z 661.5 [M+H]+.

reactant | 6-(2-chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-4-fluoro-2-methylbenzo[d]oxazole | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C(=C2)F)COCC[Si](C)(C)C)OC2CCCC2 | C25H30ClFN4O3Si
reactant | 4-amino-3-methoxy-N-methylbenzamide | 1.2 equiv | NC1=C(C=C(C(=O)NC)C=C1)OC | C9H12N2O2
reactant | brettphos | 0.15 equiv | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
reactant | cesium carbonate | 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dicyclohexyl(2′,6′-diisopropoxy-[1,1′-biphenyl]-2-yl)phosphine | 0.15 equiv | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
solvent | 1,4-dioxane | 0.2 M | O1CCOCC1 | C4H8O2
product | 4-((4-(Cyclopentyloxy)-5-(4-fluoro-2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxy-N-methylbenzamide | 63% yield | C1(CCCC1)OC=1C2=C(N=C(N1)NC1=C(C=C(C(=O)NC)C=C1)OC)N(C=C2C2=CC1=C(N=C(O1)C)C(=C2)F)COCC[Si](C)(C)C | C34H41FN6O5Si
